US07138533B2
N-[5-(5-Chloropentanoyl)-2-methoxyphenyl]methanesulfonamide
Using N-(2-methoxyphenyl)methanesulfonamide (10.0 g) and 5-chlorovaleryl chloride (7.06 ml) according to the same method as that of Reference Example 1, the title compound (9.15 g) was obtained as colorless crystals.

reactant | N-(2-methoxyphenyl)methanesulfonamide | 10.0 g | COC1=C(C=CC=C1)NS(=O)(=O)C | C8H11NO3S
reactant | 5-chlorovaleryl chloride | 7.06 ml | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-[5-(5-Chloropentanoyl)-2-methoxyphenyl]methanesulfonamide | 9.15 g | ClCCCCC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C)OC | C13H18ClNO4S
